US07528147B2
4-Chloro-5-fluoro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine may be prepared by following the procedure described in Example 97c, but starting with 0.750 g of 1-(toluene-4-sulfonyl)-1H-2-iodo-4-chloro-5-fluoropyrrolo[2,3-b]pyridine, 0.534 g of 1-tert-butyloxycarbonyl-5,6-dimethoxyindol-3-boronic acid and 0.096 g of tetrakis(triphenylphosphine)palladium. 0.390 g of 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is thus obtained, the characteristics of which are as follows:

reactant | 4-Chloro-5-fluoro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1F)N(C(=C2)C2=CNC1=CC(=C(C=C21)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C24H19ClFN3O4S
reactant | 1-tert-butyloxycarbonyl-5,6-dimethoxyindol-3-boronic acid | 0.534 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=C(C=C12)OC)OC)B(O)O | C15H20BNO6
catalyst | tetrakis(triphenylphosphine)palladium | 0.096 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.390 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CNC1=CC(=C(C=C21)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C24H20ClN3O4S
